US07259163B2
4-tert-Butyl-3-ethylbenzoic acid
A solution of n-butyl lithium (1.6M in hexane, 2.67 mL, 4.27 mmol) was added dropwise to a solution of 4-tert-butyl-3-bromobenzoic acid (500 mg, 1.94 mmol) in THF at −78° C. whilst maintaining the temperature below −70° C. After 40 minutes, ethyl iodide (1.55 mL, 19.4 mmol) was added dropwise whilst maintaining the temperature below −65° C. After one hour at −70° C., the mixture was allowed to attain room temperature and stirred overnight The mixture was quenched by the addition of saturated ammonium chloride solution (30 mL) and extracted with ether (30 mL). The organic fraction was dried over magnesium sulphate and evaporated. Purification was achieved by reverse phase HPLC on a C18 column using a two-solvent gradient elution with (A) water containing formic acid (0.1%) and (B) acetonitrile-water (95:5 v/v) containing formic acid (0.05%) as the eluents, and analysis of the fractions by electrospray mass spectroscopy. This afforded the title compound as a solid.

reactant | n-butyl lithium | 4.27 mmol, 1.6M, 2.67 mL | C(CCC)[Li]
reactant | 4-tert-butyl-3-bromobenzoic acid | 1.94 mmol, 500 mg | C(C)(C)(C)C1=C(C=C(C(=O)O)C=C1)Br | C11H13BrO2
reactant | ethyl iodide | 19.4 mmol, 1.55 mL | C(C)I | C2H5I
solvent | THF | C1CCOC1 | C4H8O
product | 4-tert-Butyl-3-ethylbenzoic acid | C(C)(C)(C)C1=C(C=C(C(=O)O)C=C1)CC | C13H18O2
